US07442806B2
Preparation of 1-tosyl-3-(S)-(−)tosyloxypyrrolidine (Formula I)
(S)-3-pyrrolidinol (30 g, 0.344 moles) was dissolved in toluene (150 ml) and tetrabutylammonium bromide (3.39 g, 0.0105 moles) was added to the solution. p-Toluensulfonylchloride (140.94 g, 0.7393 moles) was then added portion-wise to the solution, causing the temperature of the solution to rise to 35 to 40° C. Then, 30% NaOH (112.1 g, 0.8407 moles) was slowly added to the solution over about 1 hour, causing the temperature of the solution to rise to 55 to 60° C. After maintaining the solution for 5 hours at 55-60° C., the reaction was complete. Water (30 ml) was then added, and the resulting suspension was cooled to 0° C. over 1 hour to give a solid. The solid was filtered and washed with cold toluene and water to give the title compound. (Dry weight 127.95 g, yield 94%, HPLC purity 99.2% area). The main impurity is 1-tosyl-3-(S)-pyrrolidinol (reaction intermediate) in an amount of 0.05% area by HPLC.

reactant | (S)-3-pyrrolidinol | 0.344 moles, 30 g | N1C[C@H](CC1)O | C4H9NO
reactant | p-Toluensulfonylchloride | 0.7393 moles, 140.94 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaOH | 0.8407 moles, 112.1 g | [OH-].[Na+]
reactant | Water | 30 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.0105 moles, 3.39 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-tosyl-3-(S)-(−)tosyloxypyrrolidine | yield 94% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C[C@H](CC1)OS(=O)(=O)C1=CC=C(C)C=C1 | C18H21NO5S2
